US04978669
7-Methyltryptamine (free base, Sigma) was dissolved in aqueous hydrochloric acid and condensed with glyoxylic acid as described in part B. The product was decarboxylated according to part C to yield 8-methyl-1,2,3,4-tetrahydro-beta-carboline hydrochloride, which was recrystallized from ethanol:water R1-7 =R9 =H; R8 =Me).

reactant | 7-Methyltryptamine | CC1=C2NC=C(CCN)C2=CC=C1 | C11H14N2
reactant | glyoxylic acid | C(C=O)(=O)O | C2H2O3
reactant | hydrochloric acid | Cl | ClH
product | 8-methyl-1,2,3,4-tetrahydro-beta-carboline hydrochloride | Cl.CC=1C=CC=C2C=3CCNCC3NC12 | InChI=1S/C12H14N2.ClH/c1-8-3-2-4-10-9-5-6-13-7-11(9)14-12(8)10;/h2-4,13-14H,5-7H2,1H3;1H
